US07563910B2
Preparation of 5-methyl-2-(4-trifluoromethoxy-phenyl)-1H-imidazole-4-carboxylic acid piperidin-1-ylamide
To 1 g of 5-methyl-2-(4-trifluoromethoxy-phenyl)-1H-imidazole-4-carboxylic acid in 50 ml of DMF was added 1.12 g of TBTU and 3.0 ml of Hünigs' base and the reaction mixture was stirred for 1 minute. Then 0.38 ml of 1-aminopiperidine (as R1R2NH) was added and the reaction mixture was stirred for 4.5 hour at room temperature. After such time the reaction mixture was poured onto 250 ml of water and extracted with ethyl acetate (2×200 ml). The combined organic extracts were then washed with water (2×100 ml) and brine (50 ml), dried (MgSO4) and after filtration, concentrated in vacuo to yield an oil which crystallized during concentration. The residue (about 30 ml volume) was then treated with heptane (200 ml), the solid was filtered and dried to yield 1.15 g of the title compound, MS (ISP) 369.0 (M+H)+.

reactant | 5-methyl-2-(4-trifluoromethoxy-phenyl)-1H-imidazole-4-carboxylic acid | 1 g | CC1=C(N=C(N1)C1=CC=C(C=C1)OC(F)(F)F)C(=O)O | C12H9F3N2O3
reactant | TBTU | 1.12 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 1-aminopiperidine | 0.38 ml | NN1CCCCC1 | C5H12N2
reactant | water | 250 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-methyl-2-(4-trifluoromethoxy-phenyl)-1H-imidazole-4-carboxylic acid piperidin-1-ylamide | 1.15 g | N1(CCCCC1)NC(=O)C=1N=C(NC1C)C1=CC=C(C=C1)OC(F)(F)F | C17H19F3N4O2
